US04652651
1.55 g (4.34 mmol) of (3R,4R)-3-(1-t-butoxyformamido)-4-[(E)-2-carbamoylvinyl]-2-oxo-1-azetidinesulphonic acid sodium salt are dissolved in 5 ml of anisole, the solution is cooled to 0° C. and then treated with 5 ml of trifluoroacetic acid. The suspension obtained is stirred at 0° C. for 1 hour and subsequently at room temperature for 2 hours. The mixture is diluted with 100 ml of ether and 20 ml of n-hexane. The crystals obtained are filtered off and dried. The thus-obtained crude material is dissolved in 10 ml of water and chromatographed on MCI gel using water for the elution. 1.04 g (100%) of (3S,4S)-3-amino-4-[(E)-2-carbamoylvinyl]-2-oxo-1-azetidinesulphonic acid are obtained.

reactant | (3R,4R)-3-(1-t-butoxyformamido)-4-[(E)-2-carbamoylvinyl]-2-oxo-1-azetidinesulphonic acid sodium salt | 4.34 mmol, 1.55 g | [Na+].C(C)(C)(C)OC(=O)N[C@H]1C(N([C@@H]1\C=C\C(N)=O)S(=O)(=O)[O-])=O
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | n-hexane | 20 ml | CCCCCC | C6H14
solvent | water | 10 ml | O | H2O
product | (3S,4S)-3-amino-4-[(E)-2-carbamoylvinyl]-2-oxo-1-azetidinesulphonic acid | 1.04 g, 100% | N[C@@H]1C(N([C@H]1\C=C\C(N)=O)S(=O)(=O)O)=O | C6H9N3O5S
